US06090850
Into 50 mL of glacial acetic acid, 3.7 g of 1-methoxy-5-phenoxynaphthalene prepared as above, followed by 20 mL of 40% aqueous hydrogen bromide was stirred. The mixture was heated at 95-100° C. for 16 hours. The solvent was removed under vacuum, and the residue was redissolved in ethyl acetate and washed three times with brine. The organic layer was dried over magnesium sulfate and filtered. After removing solvent, the residue was chromatographed over silica gel with a gradient elution of 0 to 30% ethyl acetate in hexane, providing 2.10 g (59%) of 1-hydroxy-5-phenoxynaphthalene.

reactant | 1-methoxy-5-phenoxynaphthalene | 3.7 g | COC1=CC=CC2=C(C=CC=C12)OC1=CC=CC=C1 | C17H14O2
reactant | hydrogen bromide | 20 mL | Br | BrH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-hydroxy-5-phenoxynaphthalene | 2.10 g, 59% | OC1=CC=CC2=C(C=CC=C12)OC1=CC=CC=C1 | C16H12O2
